US08044078B2
c.) 2-(1,3-Benzoxazol-2-yloxy)-N-{3-[(3,4-Dichlorobenzyl)(methyl)amino]propyl}acetamide
To the solution of 54 mg (0.28 mmol) (1,3-benzoxazol-2-yloxy)acetic acid in 3 ml chloroform 28 mg (0.28 mmol) 4-methylmorpholine is added. The mixture is cooled to −15° C., 30 mg (0.28 mmol) ethyl chloroformate is dropped to it and the mixture is stirred under cooling for 15 minutes. Then the solution of 83 mg (0.34 mmol) N-(3,4-dichlorobenzyl)-N-(methyl)propane-1,3-diamine in 2 ml chloroform is added and the reaction mixture is stirred for 30 min under cooling and 1 hour at room temperature. The chloroform solution is extracted with 2×10 ml water, the organic phase is dried over sodium sulfate and evaporated in vacuum to obtain 50 mg title compound as an oil. LC/MS[MH+]=422 (C20H21Cl2N3O3 422.31).

reactant | (1,3-benzoxazol-2-yloxy)acetic acid | 0.28 mmol, 54 mg | O1C(=NC2=C1C=CC=C2)OCC(=O)O | C9H7NO4
reactant | ethyl chloroformate | 0.28 mmol, 30 mg | ClC(=O)OCC | C3H5ClO2
reactant | N-(3,4-dichlorobenzyl)-N-(methyl)propane-1,3-diamine | 0.34 mmol, 83 mg | ClC=1C=C(CN(CCCN)C)C=CC1Cl | C11H16Cl2N2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.28 mmol, 3 ml, 28 mg | C(Cl)(Cl)Cl | CHCl3
product | 2-(1,3-Benzoxazol-2-yloxy)-N-{3-[(3,4-Dichlorobenzyl)(methyl)amino]propyl}acetamide | 50 mg | O1C(=NC2=C1C=CC=C2)OCC(=O)NCCCN(C)CC2=CC(=C(C=C2)Cl)Cl | C20H21Cl2N3O3
